US05663448
N-Acetyl-2-bromo-4-tert-butyl aniline
To a solution of 20.80 g (108.7 mmol) of N-acetyl-4-tert-butyl aniline and 0.33 g (2 mmol) of ferric chloride in 70 ml of acetic acid is added dropwise 17.9 g (112 mmol) of bromine while the temperature is kept between 30° C. and 40° C. Then the reaction mixture is stirred 4 hours and poured into 500 ml of ice water. The precipitate is filtered off, washed with water and recrystallized from 70% ethanol. Thus is obtained 24.33 g (83%) of title compound.

reactant | N-acetyl-4-tert-butyl aniline | 108.7 mmol, 20.80 g | C(C)(=O)NC1=CC=C(C=C1)C(C)(C)C | C12H17NO
reactant | bromine | 112 mmol, 17.9 g | BrBr | Br2
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | N-Acetyl-2-bromo-4-tert-butyl aniline | 24.33 g, 83% | C(C)(=O)NC1=C(C=C(C=C1)C(C)(C)C)Br | C12H16BrNO
